US04182769
1-Benzyloxymethyl-4,5-diphenyl-2-trifluoromethylthioimidazole
In glassware dried with a heat gun and under nitrogen, to a mixture of 1.7 g (5 mmole) of 1-benzyloxymethyl-4,5-diphenylimidazole in 25 ml THF and 25 ml ether at -78° was added dropwise a solution of 3.75 ml of 1.6 M n-butyl lithium solution in hexane in 25 ml ether. The reaction mixture was stirred at -78° ca. 15 minutes then 0.8 g (6 mmole) of trifluoromethanesulfenyl chloride (TOXIC) was added as a gas. The mixture was stirred at -78° for 2 hours, then RT overnight. The mixture was added to 200 ml water and neutralized with sodium bicarbonate. The mixture was extracted with ether and the ether extracts were dried and concentrated. The residue was chromatographed on 200 g SilicAR CC-7, eluting with toluene to give, after recrystallization from hexane, 0.5 g (23%) of product, mp 97°-8°.

reactant | 1-benzyloxymethyl-4,5-diphenylimidazole | 5 mmole, 1.7 g | C(C1=CC=CC=C1)OCN1C=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
reactant | n-butyl lithium | 1.6 M, 3.75 ml | C(CCC)[Li]
reactant | trifluoromethanesulfenyl chloride | 6 mmole, 0.8 g | FC(SCl)(F)F | CClF3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | water | 200 ml | O | H2O
product | 1-Benzyloxymethyl-4,5-diphenyl-2-trifluoromethylthioimidazole | C(C1=CC=CC=C1)OCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SC(F)(F)F | C24H19F3N2OS
